US04849443
8.6 g of 2-trifluoromethyl-(1H)-indole and 100 ml of tetrahydrofuran were mixed together under an inert atmosphere and cooled to 0° C. Over 15 minutes, about 2.4 g of a suspension of sodium hydride at 50% in oil was added in small fractions and 6.5 ml of benzyl bromide in solution in 10 ml of tetrahydrofuran were introduced over 5 minutes. The mixture was stirred for 42 hours at ambient temperature and then was poured into water saturated with monosodium phosphate. The mixture was extracted with ethyl ether, and the extracts were dried and concentrated to dryness by distillation under reduced pressure. The residue was chromatographed over silica and eluted with a mixture of hexane and ethyl acetate (9/1) to obtain 12.54 g of 1-benzyl-2-trifluoromethyl-(1H)-indole melting at approx. 20° C.

reactant | 2-trifluoromethyl-(1H)-indole | 8.6 g | FC(C=1NC2=CC=CC=C2C1)(F)F | C9H6F3N
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl bromide | 6.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | monosodium phosphate | P(=O)([O-])(O)O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-benzyl-2-trifluoromethyl-(1H)-indole | 12.54 g | C(C1=CC=CC=C1)N1C(=CC2=CC=CC=C12)C(F)(F)F | C16H12F3N
